### PR TITLE
add goldfeld's conjecture re twists

### PR DESCRIPTION
**Pull request by BarinderBanwait**
for my second contribution to FC repo, i wanted to add Goldfeld's conjecture: for an elliptic curve over Q, half the twists have rank 0, half have rank 1. 

this is very similar to the existing `half_rank_zero_and_half_rank_one`, but it's about a twist family, rather than the whole family of elliptic curves.

i've essentially copied the same format as the existing goldfeld conjecture.

i also added two other variants of it, one that's found in Smith's paper where he proves that BSD implies goldfeld (referenced at the top); the other that restricts to nontrivial twists (where d is squarefree).

it builds and there are no errors.

### CODE REVIEW

File: FormalConjectures/Wikipedia/EllipticCurveRank.lean [hunk 1]
```diff
@@ -118,6 +123,91 @@ theorem _02062_le_density_rank_zero : 0.2062 ≤ atTop.liminf
...
+def twistIndexLE (H : ℕ) : Set ℤ := {d : ℤ | d ≠ 0 ∧ |d| ≤ (H : ℤ)}
+
+/-- There are `2 * H` nonzero integers `d` with `|d| ≤ H`. This is the normalisation used in
+[Smith2025]. -/
+@[category API, AMS 11 14]
+theorem ncard_twistIndexLE (H : ℕ) : (twistIndexLE H).ncard = 2 * H := by
+  have : twistIndexLE H = ↑((Finset.Icc (-(H : ℤ)) H).erase 0) :=
+    Set.ext fun d ↦ by simp [twistIndexLE, abs_le, and_comm]
+  rw [this, Set.ncard_coe_finset, Finset.card_erase_of_mem (by simp), Int.card_Icc]
+  omega
```
Comment (seewoo5) [inline FormalConjectures/Wikipedia/EllipticCurveRank.lean]: I guess now we prefer `lia` (essentially `grind`) over `omega`.

File: FormalConjectures/Wikipedia/EllipticCurveRank.lean [hunk 2]
```diff
@@ -118,6 +123,91 @@ theorem _02062_le_density_rank_zero : 0.2062 ≤ atTop.liminf
...
+@[category research open, AMS 11 14]
+theorem goldfeld_conjecture (E : RatEllipticCurve) (r : ℕ) (hr : r = 0 ∨ r = 1) :
+    atTop.Tendsto
+      (fun H ↦ ({d ∈ twistIndexLE H | E.twistRank d = r}.ncard / (twistIndexLE H).ncard : ℝ))
+      (𝓝 (1 / 2)) := by
+  sorry
+
+/-- **Goldfeld's conjecture** ([Goldfeld1979], Conjecture B), in the form stated in the
+introduction of [Smith2025], in the case `2 ≤ r`: a density 0 of the quadratic twists `E^d` of an
+elliptic curve `E` over ℚ have rank `r`. -/
```
Comment (mo271) [inline FormalConjectures/Wikipedia/EllipticCurveRank.lean]: let's use latex markdown instead of backticks

**Review by mo271 — COMMENTED** [review]
Thanks, LGTM!

**Review by mo271 — APPROVED** [review]

File: FormalConjectures/Wikipedia/EllipticCurveRank.lean (hunk 1 above)
Comment (BarinderBanwait) [reply FormalConjectures/Wikipedia/EllipticCurveRank.lean]: latest commit addresses this. leaving @seewoo5 to mark this as resolved.

File: FormalConjectures/Wikipedia/EllipticCurveRank.lean (hunk 2 above)
Comment (BarinderBanwait) [reply FormalConjectures/Wikipedia/EllipticCurveRank.lean]: latest commit addresses this. leaving @mo271 to mark this as resolved.
